US07115645B2
a) 3-(2-Naphthylamino)-4-nitrophenol
3 g of 3-fluoro-4-nitrophenol and 8.2 g of 2-naphthylamine were mixed and stirred for 8 hours at 180° C. The raw mixture was taken up in chloroform and washed with 2N aqueous hydrochloric acid. The organic phase was dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was chromatographed on silica gel.

reactant | 3-fluoro-4-nitrophenol | 3 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 2-naphthylamine | 8.2 g | C1=C(C=CC2=CC=CC=C12)N | C10H9N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Naphthylamino)-4-nitrophenol | C1=C(C=CC2=CC=CC=C12)NC=1C=C(C=CC1[N+](=O)[O-])O | C16H12N2O3
